US08053440B2
To a round-bottomed flask were added 2-amino-4,6-dimethoxy-benzamide (0.161 g, 0.82 mmol), 3-(4-formyl-phenyl)-propionic acid ethyl ester (0.170 g, 0.82 mmol), sodium bisulfite (0.160 g, 0.902 mmol), p-toluenesulfonic acid (0.016 g, 0.082 mmol) and N,N-dimethylacetamide (10 mL). The reaction mixture was refluxed at 155° C. for 16 h before being cooled to room temperature. Water was added and the precipitated solid was filtered off and washed with water and methanol to obtain 3-[4-(5,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-phenyl]-propionic acid ethyl ester (0.304 g, 97%). The compound 3-[4-(5,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-phenyl]-propionic acid ethyl ester (0.304 g, 0.795 mmol) was taken up in a 1:1 mixture of THF and methanol (6 mL). A solution of potassium hydroxide (0.089 g, 1.59 mmol) in water (6 mL) was added to the reaction mixture and stirred at room temperature for 16 h. The solvent was removed and the reaction mixture was acidified with 1 N hydrochloric acid. The precipitated solid was filtered off and washed with water and methanol. The solid was further washed with methanol to obtain 3-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)propanoic acid (0.143 g, 51%). Selected data: MS (ES) m/z: 355.0; MP 250.6-251.1° C.

reactant | 3-[4-(5,7-dimethoxy-4-oxo-3,4-dihydro-quinazolin-2-yl)-phenyl]-propionic acid ethyl ester | 0.795 mmol, 0.304 g | C(C)OC(CCC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)=O | C21H22N2O5
reactant | THF | C1CCOC1 | C4H8O
reactant | methanol | 6 mL | CO | CH4O
reactant | potassium hydroxide | 1.59 mmol, 0.089 g | [OH-].[K+]
solvent | water | 6 mL | O | H2O
product | 3-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)propanoic acid | 0.143 g, 51% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)CCC(=O)O)=O | C19H18N2O5
